US07223776B2
4-(4-Methoxy-benzylamino)-1-[2-(6-methoxy-quinazolin-4-yl)-ethyl]cyclohexanol
4-Methoxybenzylamine (0.026 ml, 0.24 mmol) and then sodium triacetoxyborohydride (0.08 g, 0.377 mmol) were added to a solution of 4-hydroxy-4-[2-(6-methoxyquinazolin-4-yl)-ethyl]cyclohexanone (0.06 g, 0.2 mmol) in dichloromethane (1 ml). The reaction mixture was stirred overnight and then filtered over Hydromatrix (wetted with an NaHCO3 solution, 2 ml) and subsequently washed with dichloromethane. The filtrate was concentrated to dryness by rotary evaporation. The residue was purified by column chromatography on silica gel (dichloromethane/MeOH 9/1 and then dichloromethane/MeOH 9/1 and 2% triethylamine).

reactant | 4-Methoxybenzylamine | 0.24 mmol, 0.026 ml | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | sodium triacetoxyborohydride | 0.377 mmol, 0.08 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-hydroxy-4-[2-(6-methoxyquinazolin-4-yl)-ethyl]cyclohexanone | 0.2 mmol, 0.06 g | OC1(CCC(CC1)=O)CCC1=NC=NC2=CC=C(C=C12)OC | C17H20N2O3
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 4-(4-Methoxy-benzylamino)-1-[2-(6-methoxy-quinazolin-4-yl)-ethyl]cyclohexanol | COC1=CC=C(CNC2CCC(CC2)(O)CCC2=NC=NC3=CC=C(C=C23)OC)C=C1 | C25H31N3O3
